* Extracted by KLayout with GF180MCU LVS runset on : 25/07/2026 14:44

.SUBCKT transmission_gate VSS VDD out ena ena_bar in
M$1 in ena_bar out VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 in ena out VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS transmission_gate
